US06340759B1
3-(4-Methoxyphenyl)-1-chloroisoquinoline (3.25 g) was dissolved in tetrahydrofuran (30 ml), followed by the addition of 3.0M ethylmagnesium bromide diethyl ether solution (12 ml) and NiCl2(dppp) (50 mg) at 0° C. After the mixture was reacted overnight at room temperature, the resulting reaction solution was poured into an aqueous solution of saturated ammonium chloride and extracted with ethyl acetate. The resulting organic layer was washed with water and brine, dried and evaporated, to give 3-(4-methoxyphenyl)-1-methylisoquinoline as an oil (3.3 g, yield; 100%).

reactant | 3-(4-Methoxyphenyl)-1-chloroisoquinoline | 3.25 g | COC1=CC=C(C=C1)C=1N=C(C2=CC=CC=C2C1)Cl | C16H12ClNO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | NiCl2(dppp) | 50 mg | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 3-(4-methoxyphenyl)-1-methylisoquinoline | 3.3 g, yield; 100% | COC1=CC=C(C=C1)C=1N=C(C2=CC=CC=C2C1)C | C17H15NO
